US07902379B2
A) 5-Chloro-3-hydroxy-3-(4-methoxy-pyridin-3-yl)-1,3-dihydro-indol-2-one
A 1.7 M solution of tert-butyllithium in pentane (43.4 mL) was added to THF (150 ml) at −78° C. 2-Bromomesitylene (5.4 mL) was added dropwise, keeping the temperature below −60° C., and the mixture stirred at −78° C. for 1 h. 4-Methoxypyridine (2.75 mL) was added dropwise at −78° C. and then the mixture was stirred at −30° C. to −20° C. for 3.5 h. The reaction mixture was re-cooled to −78° C. and a slurry of 5-chloroisatin (2.44 g) in THF (120 mL) was added portionwise, keeping the temperature below −65° C. The reaction mixture was stirred at −78° C. for 30 min. The reaction mixture was allowed to warm to −20° C. and then 10% aqueous ammonium chloride solution (75 mL) was added. After stirring for 10 min, the white solid was filtered off, washed with water (excess) and ethyl acetate (20 mL). Yield after drying in vacuo: 1.8 g (42%).

reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | 2-Bromomesitylene | 5.4 mL | BrC1=C(C=C(C=C1C)C)C | C9H11Br
reactant | 4-Methoxypyridine | 2.75 mL | COC1=CC=NC=C1 | C6H7NO
reactant | 5-chloroisatin | 2.44 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | ammonium chloride | 75 mL | [Cl-].[NH4+]
solvent | pentane | 43.4 mL | CCCCC | C5H12
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 5-Chloro-3-hydroxy-3-(4-methoxy-pyridin-3-yl)-1,3-dihydro-indol-2-one | ClC=1C=C2C(C(NC2=CC1)=O)(C=1C=NC=CC1OC)O | C14H11ClN2O3
